US04582837
2-(2'-Methoxy-4'-trifluoromethanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine
Prepared analogously to Example 1 from 2-(2'-methoxy-4'-hydroxyphenyl)-imidazo[4,5-b]pyridine and trifluoromethanesulfonic acid anhydride.

reactant | 2-(2'-methoxy-4'-hydroxyphenyl)-imidazo[4,5-b]pyridine | COC1=C(C=CC(=C1)O)C=1NC=2C(=NC=CC2)N1 | C13H11N3O2
reactant | trifluoromethanesulfonic acid anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 2-(2'-Methoxy-4'-trifluoromethanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine | COC1=C(C=CC(=C1)OS(=O)(=O)C(F)(F)F)C=1NC=2C(=NC=CC2)N1 | C14H10F3N3O4S
